US07465825B2
4′-Bromo-biphenyl-4-carboxylic acid methyl ester
A mixture of methyl 4-iodobenzoate, 9.38 g (35.8 mmol), 4-bromophenylboronic acid 7.18 g (35.8 mmol), Pd(PPh3)4, 2.07 g (1.79 mmol), in 180 mL of toluene and 100 mL of ethanol was heated to obtain a clear solution. To the solution was added 30 mL of 4.0M aq. Na2CO3. The reaction mixture refluxed for 4 h at 80° C. The mixture was cooled to room temperature and diluted with 300 mL ethyl acetate. The organic layer was washed with 2×300 mL portions of water, 2×300 mL portions of sat. aq. NaCl, and dried (MgSO4). After the solution was concentrated, the residue was purified by column chromatography (eluted with 7% EtOAc-Heptane) to afford the desired product in 7.8 g (78%) as a white solid. 1H NMR (CDCl3) 8.10 (d, 2H, J=9.0 Hz), 7.62 (d, 2H, J=9.0 Hz), 7.59 (d, 2H, J=9.3 Hz), 7.48 (d, 2H, J=9.3 Hz), 3.95 (s, 3H).

reactant | methyl 4-iodobenzoate | IC1=CC=C(C(=O)OC)C=C1 | C8H7IO2
reactant | 4-bromophenylboronic acid | 35.8 mmol, 7.18 g | BrC1=CC=C(C=C1)B(O)O | C6H6BBrO2
reactant | ethanol | 100 mL | C(C)O | C2H6O
reactant | Na2CO3 | 4.0M, 30 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | toluene | 180 mL | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | 300 mL | C(C)(=O)OCC | C4H8O2
catalyst | Pd(PPh3)4 | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4′-Bromo-biphenyl-4-carboxylic acid methyl ester | COC(=O)C1=CC=C(C=C1)C1=CC=C(C=C1)Br | C14H11BrO2
